US06939928B1
(2) Synthesis of 1-(3-trimethylsilylcyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane
In a 30 ml Schlenk flask purged with nitrogen, 0.92 g (1.48 mmol, 1 eq) of 1-(cyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane was placed at room temperature. Then, 20 ml of dehydrated THF was added, and the mixture was stirred by a magnetic stirrer to give a solution. The solution was cooled with an ice bath (light orangy brown solution). To the solution, 1.0 ml (1.63 mmol, 1.10 eq) of a hexane solution of n-BuLi was dropwise added. Then, the ice bath was removed, and the solution was stirred at room temperature for 18 hours (dark red solution). The solution was cooled with an ice bath, and to the solution, 1.05 ml (8.28 mmol, 5.59 eq) of chlorotrimethylsilane was dropwise added by a syringe (dark brown solution). The ice bath was removed, and the solution was stirred at room temperature for 3 hours. The resulting dark brown solution was poured into 50 ml of a diluted hydrochloric acid solution to perform quenching. After the soluble component was extracted with 30 ml of diethyl ether, the organic phase was washed with 50 ml of a saturated saline solution. The organic phase was dried over MgSO4, then the MgSO4 was filtered off, and from the filtrate the solvent was vacuum distilled off by a rotary evaporator to obtain a yellowish brown amorphous product. The amorphous product was purified by silica gel column chromatography (developing solvent: hexane:dichloromethane=19:1) to obtain 0.62 g a light yellow amorphous product (yield: 61%).

reactant | 1-(cyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane | 1.48 mmol, 0.92 g, 1 eq | C1(C=CC=C1)C(C1C(C2=C(C=C3C=4C=C5C(=CC4CC3=C2)C(CCC5(C)C)(C)C)C(C1)(C)C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H52
reactant | hexane | 1.63 mmol, 1.0 ml, 1.10 eq | CCCCCC | C6H14
reactant | n-BuLi | [Li]CCCC
reactant | chlorotrimethylsilane | 8.28 mmol, 1.05 ml, 5.59 eq | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(3-trimethylsilylcyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane | 0.62 g, yield: 61% | C[Si](C1=CC(C=C1)C(C1C(C2=C(C=C3C=4C=C5C(=CC4CC3=C2)C(CCC5(C)C)(C)C)C(C1)(C)C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C50H60Si
